US06613760B1
Ethyl 4-chloromethyl-N-(3,4-dichlorobenzyl)indole-2-carboxylate
Ethyl N-(3,4-dichlorobenzyl)-4-hydroxymethylindole-2-carboxylate (0.89 g), dimethylformamide (0.5 ml) and thionyl chloride (189 μl) in dichloromethane (40 ml) were stirred at ambient temperature overnight and the resulting precipitate as filtered and dried in vacuo to give the product as a white solid (0.62 g, 67%); NMR δ(CD3SOCD3) 1.30 (t, 3H), 4.30 (q, 2H), 5.10 (s, 2H), 5.85 (s, 2H), 6.90 (m, 1H), 7.30 (m, 3H) 7.55 (m, 3H), M/z (+) 396.2 (MH+).

reactant | Ethyl N-(3,4-dichlorobenzyl)-4-hydroxymethylindole-2-carboxylate | 0.89 g | ClC=1C=C(CN2C(=CC3=C(C=CC=C23)CO)C(=O)OCC)C=CC1Cl | C19H17Cl2NO3
reactant | dimethylformamide | 0.5 ml | CN(C=O)C | C3H7NO
reactant | thionyl chloride | 189 μl | S(=O)(Cl)Cl | Cl2OS
solvent | dichloromethane | 40 ml | ClCCl | CH2Cl2
product | Ethyl 4-chloromethyl-N-(3,4-dichlorobenzyl)indole-2-carboxylate | 0.62 g, 67% | ClCC1=C2C=C(N(C2=CC=C1)CC1=CC(=C(C=C1)Cl)Cl)C(=O)OCC | C19H16Cl3NO2
